US04110116
A mixture of 89 g. of 2-nitro-4,6-dibromo-phenol, 270 ml. of methyl alcohol, 50ml. of 30% NaOH aqueous solution and 2,400 ml. of demineralized water was heated up to 50°-55° C., obtaining a yellow solution. To this solution, 178 g. of Na2S2O3 were added in small portions, by keeping the temperature at 50° C. The reaction mixture was then stirred for 30 minutes by keeping the temperature at 65° C. and finally for 30 minutes at room temperature. By cooling, 44.2 g. of 2-amino-4,6-dibromo-phenol were obtained, having a melting point equal to 89°-92° C.

reactant | 2-nitro-4,6-dibromo-phenol | [N+](=O)([O-])C1=C(C(=CC(=C1)Br)Br)O | C6H3Br2NO3
reactant | methyl alcohol | CO | CH4O
reactant | NaOH | [OH-].[Na+]
reactant | Na2S2O3 | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | water | O | H2O
product | 2-amino-4,6-dibromo-phenol | NC1=C(C(=CC(=C1)Br)Br)O | C6H5Br2NO
